US05444082
9-(2-Amino-2-carboxy-ethylthio)-3-(2-(3-furyl)ethyl)-spiro[5.5]undecane I-aa
Using the experimental conditions described in Ex. 24 and 9-mercapto-3-(2-(3-furyl)ethyl)-spiro[5.5]undecane and 3-chloroalanine hydrochloride as starting materials, the title compound (I-aa) was obtained as an amorphous solid. TLC: Rf=0.28 (SiO2 plates, n-butanol/acetic acid/water 40/10/50). 1H-NMR (300 MHz, CDCl3, ppm from TMS): 7.37 (1H, m), 7.24 (1H, m), 6.26 (1H, m), 4.4-4.2 (3H, m), 3.48 (1H, m), 2.70 (1H, m), 2.45 (2H, t), 2.42 (2H, t), 1.90-0.85 (19H, m).

reactant | 9-mercapto-3-(2-(3-furyl)ethyl)-spiro[5.5]undecane | SC1CCC2(CCC(CC2)CCC2=COC=C2)CC1 | C17H26OS
reactant | 3-chloroalanine hydrochloride | Cl.ClC[C@H](N)C(=O)O
product | 9-(2-Amino-2-carboxy-ethylthio)-3-(2-(3-furyl)ethyl)-spiro[5.5]undecane | NC(CSC1CCC2(CCC(CC2)CCC2=COC=C2)CC1)C(=O)O | C20H31NO3S
